US07419997B2
N-(6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-fluorobenzenesulfonamide was prepared from 2-fluorobenzenesulfonylchloride and 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine in a similar manner as described above to give a white solid: 1H-NMR (CDCl3): δ 8.56 (s, 1H), 8.00 (m, 1H), 7.65 (m, 1H), 7.58 (m, 1H), 7.2-7.4 (m, 3H), 5.04 (d, 1H), 4.60 (m, 1H), 2.65 (m, 2H), 1.6-2.1 (m, 4H); MS m/z 421 (M−1).

reactant | 2-fluorobenzenesulfonylchloride | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
product | N-(6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-fluorobenzenesulfonamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NS(=O)(=O)C1=C(C=CC=C1)F | C18H16BrFN2O2S
